### ISSUE TITLE
RFC: Nested inductives: rewrite the recursor, too

### ISSUE THREAD

**Issue by nomeata** [leanprover/lean4#4749]
I have been tossing ideas around on how to work towards nested structural recursion, and this idea may reach the bar for worth-noting-as-an-RFC.

### Summary

The kernel’s approach to compiling nested inductive (e.g. `Tree` nested under `List`) is

* Create a non-nested mutual inductive, by copying the structure of the inductive that we nest under (`List`), creating an auxillary inductive (`ListTree`).
* In the types and reduction rules of the generated recursors, replace the type former and constructors of the auxillary inductive with the ones expected by the user.

This way they get their `Tree` type with the expected types in the constructor and recursors, but they do get an extra recursor `Tree.rec_1` (stemming from `ListTree.rec`), and it’s all disconnected from `List.rec`.

So I wonder: Can’t we also rewrite `ListTree.rec` with (a suitable instantiation of) `List.rec` in the rules for `Tree.rec`, and hopefully gain extra definitional equalities?

To rewrite the auxillary recursor, define a helper definition with the same type as the auxillary recursor, but implemented using the recursor of the nested-under inductive:
* pass the motives corresponding to the desired type through to its recursor
* pass through the F-args, but for `x_ih` parameter that isn't provided by the desired recursor, instantiated that with the that type’s .rec and full set of motives/F-args.

(This paragraph isn’t really helpful, I know, the example below is maybe better, and at some point this needs to be specified precisely).

### Example with some code

```lean
import Lean.Elab.Command

inductive Tree where | node : List Tree → Tree

open Lean Meta

set_option pp.explicit true
set_option pp.funBinderTypes true

-- This the generated rule's RHS.
-- The type and constructors of the auxillary `ListTree` have been replaced
-- by their `List Tree` counterpats, but we still see `Tree.rec_1`.
-- Can we replace that with `List.rec`?

/--
info: fun
    (motive_1 : Tree → Sort u)
    (motive_2 : List Tree → Sort u)
    (node : (a : List Tree) → motive_2 a → motive_1 (Tree.node a))
    (nil : motive_2 (@List.nil Tree))
    (cons : (head : Tree) → (tail : List Tree) → motive_1 head → motive_2 tail → motive_2 (@List.cons Tree head tail))
    (a : List Tree) =>
  node a (@Tree.rec_1 motive_1 motive_2 node nil cons a)
-/
#guard_msgs(whitespace:=lax) in
run_meta do
  let recVal ← getConstInfoRec ``Tree.rec
  logInfo recVal.rules[0]!.rhs

-- Here is a definition with the same type as `Tree.rec_1`, but referring to `List.rec` instead.

noncomputable
def Tree.rec_1_impl
    {motive_1 : Tree → Sort u}
    {motive_2 : List Tree → Sort u}
    (node : (a : List Tree) → motive_2 a → motive_1 (Tree.node a))
    (nil : motive_2 (@List.nil Tree))
    (cons : (head : Tree) → (tail : List Tree) → motive_1 head → motive_2 tail → motive_2 (@List.cons Tree head tail))
    (ts : List Tree) :=
  @List.rec Tree motive_2 nil (fun (head : Tree) (tail : List Tree) ih_tail => cons head tail (@Tree.rec motive_1 motive_2 node nil cons head) ih_tail) ts


-- With this, I could imagine the following rule RHS'

noncomputable
def proposedRuleRHS
    (motive_1 : Tree → Sort u)
    (motive_2 : List Tree → Sort u)
    (node : (a : List Tree) → motive_2 a → motive_1 (Tree.node a))
    (nil : motive_2 (@List.nil Tree))
    (cons : (head : Tree) → (tail : List Tree) → motive_1 head → motive_2 tail → motive_2 (@List.cons Tree head tail))
    (a : List Tree) :=
    node a (@Tree.rec_1_impl motive_1 motive_2 node nil cons a)
```

### Is this sound?

Most crucial is of course the question of whether this is sound, a question which I cannot answer easily. (Intuitively it ought to be.)

In the example above the replacement recursor is at least provabily equal:
```lean
theorem Tree.rec_1_eq_rec1_impl : @Tree.rec_1 = @Tree.rec_1_impl := by
  funext motive_1 motive_2 node nil cons ts
  induction ts
  next => rfl
  next t ts ih => simp [ih, Tree.rec_1_impl]
```
so that is reason for optimism that this will hold for more complicated types.

But that theorem like isn’t sufficient, as there are metatheoretic properties to worry about.

Happy to hear expert advise here, either about how to argue that it is, or show why it isn’t.

### Does this help?

The hope is that with this we can construct
```
def Tree.size : Tree → Nat | node ts => ts.foldl (. + .size) 0
```
in a way that this this equation holds definitionally.

I did not work it through yet if that’s actually true, given our course-of-value recursion strategy.

Also the interaction with smart unfolding is unclear. Can there be useful a smart unfolding for a function like this?

**Comment by nomeata** [comment]
Ha, with  `addDeclWithoutChecking` I can easily experiment with this, very nice.

At least if the functions are defined via `.rec` we get the desired definitional equality`

```lean

-- Let’s replace `Tree.rec_1` with a term defined via `List.rec`:

run_meta do
  let decl ← getConstInfoDefn ``Tree.rec_1_impl
  let decl := { decl with name := ``Tree.rec_1}
  let env ← getEnv
  let .ok env' := env.addDeclWithoutChecking (.defnDecl decl) | throwError "addDeclWithoutChecking failed"
  modifyEnv (fun _ => env')

-- A variant of List.map defined directly with the recursor
noncomputable
def List.map' (f : α → β) : List α → List β :=
  List.rec [] (fun x xs xs_ih => (f x) :: xs_ih)

noncomputable
def Tree.id : Tree → Tree :=
  Tree.rec (fun ts ts_ih => .node ts_ih) [] (fun _x _xs x_ih xs_ih => x_ih :: xs_ih)

theorem Tree.id_eq_1 : 
  Tree.id (.node ts) = .node (List.map' Tree.id ts) := rfl
```

**Comment by cppio** [comment]
I think it is impossible to support course-of-value recursion in general. Consider the following (contrived) example:
```lean
mutual

def frob (n : Nat) : Tree → Tree
  | .node [] => .node []
  | .node (t :: ts) => .node (List.replicate n (frob n t) ++ frob' n ts)

def frob' (n : Nat) : List Tree → List Tree
  | [] => []
  | x :: xs => frob (n + 1) x :: frob' (n + 1) xs

end

example : frob' n xs = xs.foldr (fun x frob'_xs n => frob (n + 1) x :: frob'_xs (n + 1)) (fun _ => []) n :=
  by induction xs generalizing n with simp! [*]
```
The question is whether it is possible to define `frob` and `frob'` via structural recursion in such a way that `frob'` is equal to the `foldr` application definitionally. I believe the answer is no. In order for `frob'` to equal `foldr`, it must use the same motive for `List.rec`, so `motive_2` for `Tree.rec` and `Tree.rec_1` must be `fun ts => (Nat → List Tree) ×' @ts.below Tree fun _ => Nat → List Tree`. However, this makes it impossible to handle the `node (t :: ts)` branch, since there is no inductive hypothesis for `t` alone that is needed to handle `frob n t`. It also isn't possible to modify `foldr` (i.e. `List.below`/`List.brecOn`) to fix this, since regardless of what motive is chosen, it cannot take into account the motive for `Tree`.

While the general course-of-value recursion is impossible to support, it is still possible to support a restricted version:
```lean
def Tree.below' (motive_2 : List Tree → Sort u) : Tree → Sort max 1 u := Tree.rec
  (node := fun ts ts_ih => motive_2 ts ×' ts_ih)
  (nil := PUnit)
  (cons := fun _ tail _ tail_ih => motive_2 tail ×' tail_ih)

def Tree.below_1' (motive_1 : Tree → Sort u) (motive_2 : List Tree → Sort u) (t : List Tree) : Sort max 1 u :=
  (t.rec PUnit fun head _ _ => motive_1 head ×' head.below' motive_2) ×' t.below (motive := motive_2)

noncomputable
def Tree.brecOn' {motive_1 : Tree → Sort u} {motive_2 : List Tree → Sort u} t
  (F_1 : ∀ t, t.below' motive_2 → motive_1 t) (F_2 : ∀ t, below_1' motive_1 motive_2 t → motive_2 t)
: motive_1 t := PProd.fst <| t.rec
  (motive_1 := fun t => motive_1 t ×' t.below' motive_2)
  (motive_2 := fun t => motive_2 t ×' t.below (motive := motive_2))
  (node := fun ts ts_ih => ⟨F_1 (node ts) ts_ih, ts_ih⟩)
  (nil := ⟨F_2 [] ⟨⟨⟩, ⟨⟩⟩, ⟨⟩⟩)
  (cons := fun head tail head_ih tail_ih => ⟨F_2 (head :: tail) ⟨head_ih, tail_ih⟩, tail_ih⟩)

noncomputable
def Tree.id (t : Tree) : Tree :=
  t.brecOn' (motive_1 := fun _ => Tree) (motive_2 := fun _ => List Tree)
    (fun | .node _ => fun b => .node b.1)
    (fun | [] => fun _ => [] | _ :: _ => fun b => b.1.1 :: b.2.1)

set_option smartUnfolding false in
example : Tree.id (.node ts) = .node (ts.map .id) := rfl
```
Here, `Tree.below'` is defined without including the problematic nested IH, and this allows for defining `Tree.brecOn'` in such a way that it unfolds to `List.brecOn`.
